* extracted by klt extract --deck sg13cmos5l

* cell pll_cp
* pin DN
* pin DNB
* pin IBN
* pin IBP
* pin ICN
* pin ICP
* pin UP
* pin UPB
* pin VDD
* pin VDUMP
* pin VOUT
* pin VSS
* pin XLEGN_sw
* pin XLEGN_tail
* pin XLEGP_sw
* pin XLEGP_tail
* pin nxn
* pin nxp
.SUBCKT pll_cp DN DNB IBN IBP ICN ICP UP UPB VDD VDUMP VOUT VSS XLEGN_sw
+ XLEGN_tail XLEGP_sw XLEGP_tail nxn nxp
* device instance $1 r0 *1 2.3,3.11 nfet
X$1 UPB UP VSS VSS sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U PD=4.8U
* device instance $2 r0 *1 6.26,3.11 nfet
X$2 DNB DN VSS VSS sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U PD=4.8U
* device instance $3 r0 *1 16.86,4.36 nfet
X$3 ICN ICN VSS VSS sg13_hv_nmos L=3U W=2U AS=0.8P AD=0.8P PS=4.8U PD=4.8U
* device instance $4 r0 *1 28.46,3.36 nfet
X$4 VDUMP IBN VSS VSS sg13_hv_nmos L=1U W=4U AS=1.6P AD=1.6P PS=8.8U PD=8.8U
* device instance $5 r0 *1 42.06,3.01 nfet
X$5 VOUT DN XLEGN_sw VSS sg13_hv_nmos L=0.3U W=6U AS=2.4P AD=2.4P PS=12.8U
+ PD=12.8U
* device instance $6 r0 *1 50.02,3.01 nfet
X$6 VDUMP DNB XLEGN_sw VSS sg13_hv_nmos L=0.3U W=6U AS=2.4P AD=2.4P PS=12.8U
+ PD=12.8U
* device instance $7 r0 *1 64.62,3.11 nfet
X$7 VDD VOUT VDUMP VSS sg13_hv_nmos L=0.5U W=6U AS=2.4P AD=2.4P PS=12.8U
+ PD=12.8U
* device instance $8 r0 *1 80.22,3.36 nfet
X$8 XLEGN_tail IBN VSS VSS sg13_hv_nmos L=1U W=8U AS=3.2P AD=3.2P PS=16.8U
+ PD=16.8U
* device instance $9 r0 *1 90.18,3.36 nfet
X$9 XLEGN_sw ICN XLEGN_tail VSS sg13_hv_nmos L=1U W=8U AS=3.2P AD=3.2P PS=16.8U
+ PD=16.8U
* device instance $10 r0 *1 100.14,3.36 nfet
X$10 nxn IBN VSS VSS sg13_hv_nmos L=1U W=8U AS=3.2P AD=3.2P PS=16.8U PD=16.8U
* device instance $11 r0 *1 110.1,3.36 nfet
X$11 IBN ICN nxn VSS sg13_hv_nmos L=1U W=8U AS=3.2P AD=3.2P PS=16.8U PD=16.8U
* device instance $12 r0 *1 125.2,3.11 pfet
X$12 UPB UP VDD VDD sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P PS=10.8U PD=10.8U
* device instance $13 r0 *1 132.16,3.11 pfet
X$13 DNB DN VDD VDD sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P PS=10.8U PD=10.8U
* device instance $14 r0 *1 146.26,3.01 pfet
X$14 VOUT UPB XLEGP_sw VDD sg13_hv_pmos L=0.3U W=6U AS=2.4P AD=2.4P PS=12.8U
+ PD=12.8U
* device instance $15 r0 *1 154.22,3.01 pfet
X$15 VDUMP UP XLEGP_sw VDD sg13_hv_pmos L=0.3U W=6U AS=2.4P AD=2.4P PS=12.8U
+ PD=12.8U
* device instance $16 r0 *1 168.82,4.36 pfet
X$16 ICP ICP VDD VDD sg13_hv_pmos L=3U W=6U AS=2.4P AD=2.4P PS=12.8U PD=12.8U
* device instance $17 r0 *1 192.42,3.36 pfet
X$17 XLEGP_tail IBP VDD VDD sg13_hv_pmos L=1U W=24U AS=9.6P AD=9.6P PS=48.8U
+ PD=48.8U
* device instance $18 r0 *1 218.38,3.36 pfet
X$18 XLEGP_sw ICP XLEGP_tail VDD sg13_hv_pmos L=1U W=24U AS=9.6P AD=9.6P
+ PS=48.8U PD=48.8U
* device instance $19 r0 *1 244.34,3.36 pfet
X$19 nxp IBP VDD VDD sg13_hv_pmos L=1U W=24U AS=9.6P AD=9.6P PS=48.8U PD=48.8U
* device instance $20 r0 *1 270.3,3.36 pfet
X$20 IBP ICP nxp VDD sg13_hv_pmos L=1U W=24U AS=9.6P AD=9.6P PS=48.8U PD=48.8U
.ENDS pll_cp
